US05212187
N-[2-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-nitro-1,1-ethenediamine
Preparation is effected analogously to Example 22, using 0.85 g (2.7 mmol) of N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine and the equimolar amount of 1-methylthio-1-[3-[3-(piperidinomethyl)phenoxy]propyl]amino-2-nitroethene as starting materials. Chromatographic working-up analogously to Example 22 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=632 ([M+H]+, 8), 121 (100). For further analysis, a portion of the compound is converted into the tartaric acid salt and recrystallised from isopropanol/ether; m.p.: 102°-104° C. (isopropanol/ether).

reactant | N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine | 2.7 mmol, 0.85 g | COC1=CC=C(CN(C2=NC=CC=C2)CCN(CCN)C)C=C1 | C18H26N4O
reactant | 1-methylthio-1-[3-[3-(piperidinomethyl)phenoxy]propyl]amino-2-nitroethene | CSC(=C[N+](=O)[O-])NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C18H27N3O3S
product | N-[2-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-nitro-1,1-ethenediamine | COC1=CC=C(CN(C2=NC=CC=C2)CCN(C)CCNC(=C[N+](=O)[O-])NCCCOC2=CC(=CC=C2)CN2CCCCC2)C=C1 | C35H49N7O4
